US05952511
(RS)-1-(Formylmethyl)-3-(N'-(3-methoxyphenyl)ureido)-3-((4-methylphenyl)aminocarbonylmethyl)indolin-2-one
To a solution of 1.61 g of (RS)-1-(2,2-diethoxyethyl)-3-(N'-(3-methoxyphenyl)ureido)-3-((4-methylphenyl)aminocarbonylmethyl)indolin-2-one in 40 ml of acetone were added 10 ml of water and 1 ml of concentrated hydrochloric acid, and the mixture was heated under reflux for 2 hours. The reaction mixture was poured into water, and the thus formed precipitate was collected by filtration and washed with ethyl ether to obtain 1.11 g (79%) of the title compound.

reactant | (RS)-1-(2,2-diethoxyethyl)-3-(N'-(3-methoxyphenyl)ureido)-3-((4-methylphenyl)aminocarbonylmethyl)indolin-2-one | 1.61 g | C(C)OC(CN1C(C(C2=CC=CC=C12)(CC(=O)NC1=CC=C(C=C1)C)NC(=O)NC1=CC(=CC=C1)OC)=O)OCC | C31H36N4O6
reactant | water | 10 ml | O | H2O
reactant | hydrochloric acid | 1 ml | Cl | ClH
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | (RS)-1-(Formylmethyl)-3-(N'-(3-methoxyphenyl)ureido)-3-((4-methylphenyl)aminocarbonylmethyl)indolin-2-one | 1.11 g, 79% | C(=O)CN1C(C(C2=CC=CC=C12)(CC(=O)NC1=CC=C(C=C1)C)NC(=O)NC1=CC(=CC=C1)OC)=O | C27H26N4O5
